data/specific_train_final.csv
"CC1=CC([C:10](C=C1)C)O.[O:20][O]>>CC1=CC([C:10](C=C1)(C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[O:11])[CH:3]=[CH:4][C:5]1([CH:7]([O:8]1)[CH:9]=[O:10])[CH3:6].[OH:12]>>[CH3:1][C:2](=[O:11])[CH:3][CH:4]([C:5]1([CH:7]([O:8]1)[CH:9]=[O:10])[CH3:6])[OH:12] 3,4-3; 3,4-4,12; 12-4,12",Room Temperature,Propagation,addition
"CCC1=CC2(C(C(C1[O:20])(OO2)C)O)CC.[N+:10](=O)[O-]>>CCC1=CC2(C(C(C1[O:20][N+:10](=O)[O-])(OO2)C)O)CC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCC(C(C)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C=CC=C1)CCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCCC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C(C)O[N+](=O)[O-])[O:20][O:21]N=O>>CCC(C(C)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COCO[CH2:10].[O:20][O]>>COCO[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[C:8]([C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:13])([Cl:7])[Cl:12])([OH:11])([Cl:9])[Cl:10]>>[C:8]([C:6]([O:5][O:4][O:3])([Cl:7])[Cl:12])([OH:11])([Cl:9])[Cl:10].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([CH2:8][O:9][OH:10])[O:12][OH:13])[O:5][O:6].[N:14]=[O:15]>>[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([CH2:8][O:9][OH:10])[O:12][OH:13])[O:5][O:6][N:14]=[O:15] 6-6,14; 14-6,14",Room Temperature,Termination,recombine
"C1CCC(C(C1)O)O[O:20].[N:10]=O>>C1CCC(C(C1)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C([O:20][O:21]N=O)(Cl)Cl)(O)Cl>>C(C([O:20])(Cl)Cl)(O)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:7][CH2:6][CH2:5][C:2](=[O:1])[O:3][O:4].[N+:9](=[O:8])[O-:10]>>[CH3:7][CH2:6][CH2:5][C:2](=[O:1])[O:3][O:4][N+:9](=[O:8])[O-:10] 4-4,9; 9-4,9",Room Temperature,Termination,recombine
"CC(C)(C[O:21][O:20][O])OC.[N+](=O)[O-]>>CC(C)(C[O:21])OC.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH:5]1=[CH:4][CH:3]=[C:2]([CH:7]=[CH:6]1)[OH:1].[N+:9](=[O:8])([O-:10])[O:11]>>[CH:4]1=[CH:5][CH:6]([CH:7][C:2](=[CH:3]1)[OH:1])[O:11][N+:9](=[O:8])[O-:10] 11-11,6; 7,6-11,6; 7,6-7",Room Temperature,Propagation,addition
"CCC12C(C(C(=C[C:10]1O)C)OO2)O.[O:20][O]>>CCC12C(C(C(=C[C:10]1(O)[O:20][O])C)OO2)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCC(C)O[O:10]>>[H:20][O:10]OC(C)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]OCOC.[OH:10]>>[H:20][OH:10].COCO[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C1C(O1)(C)C=CC(=O)CC.[O:10][O]>>[H:20][O:10][O].CCC(=O)C=CC1(C(O1)[CH:22]=[O:21])C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][CH2:21]OC(=O)OC.[OH:10]>>[H:20][OH:10].COC(=O)O[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)(C)[O:20][O:21]N=O)O>>CC(C(C)(C)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:10][CH:9]([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:15])[O:11][N+:12](=[O:14])[O-:13]>>[CH3:10][CH:9]([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3])[O:11][N+:12](=[O:14])[O-:13].[N+:2](=[O:1])[O-:15] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH3:10].[O:20][O]>>[CH3:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1O)OO2)O[O:20].[N:10]=O>>CC12C=CC(C(C1O)OO2)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(O[O:1])=O.[O-][N+:2]=O>>CC(O[O:1][N+:2]([O-])=O)=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
"C([C:10](Cl)Cl)O.[O:20][O]>>C([C:10]([O:20][O])(Cl)Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][C:9](=[C:11]([H:12])[O:13][H:14])[C:2]([CH3:1])([CH2:5][O:6][O:7][H:8])[O:3][O:4]>>[H:10][C:9](=[C:11]([H:12])[O:13])[C:2]([CH3:1])([CH2:5][O:6][O:7][H:8])[O:3][O:4][H:14] 4-4,14; 14,13-13; 14,13-4,14",Room Temperature,Propagation,abstraction
"CCCCC(CO)[O:20][O:21][O]>>CCCCC(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(CC)[O:20][O:21]N=O>>CCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:16]>>[CH3:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:16] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CC)CCCC.[OH:10]>>[H:20][OH:10].CCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
